US04269788
To 11.5 ml. (about 6 equivalents) of methylamine and 10 g. of molecular sieve 3A in 200 ml. of absolute methanol are added dropwise at 0° C. 17.8 ml. of 5 N methanolic hydrochloric acid (2 equivalents) and subsequently 9.4 g. of (1-phenyl-2,5-cyclohexadien-1-yl)-2-propanone in a small amount of methanol. After the addition of 1.95 g. (0.75 equivalent) of sodium cyanoborohydride, the mixture is stirred at room temperature for 5 days. The mixture is worked-up as follows: The mixture is treated with ice-water and ether and extracted with 3 N aqueous hydrochloric acid. The hydrochloric acid extracts are made basic with concentrated aqueous ammonia and extracted with ether. The ether phase is dried with sodium sulfate, filtered and evaporated. The crude product obtained is chromatographed on silica gel with methylene chloride/methanol (10:1). There is obtained α,N-dimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine in the form of an oily product. This is converted as usual into the hydrochloride which, after crystallization from methylene chloride/ether, has a melting point of 155°-158° C.

reactant | methylamine | about 6 equivalents | CN | CH5N
reactant | hydrochloric acid | 5 N, 2 equivalents | Cl | ClH
reactant | (1-phenyl-2,5-cyclohexadien-1-yl)-2-propanone | C1(=CC=CC=C1)C1(C=CCC=C1)CC(C)=O | C15H16O
reactant | sodium cyanoborohydride | 0.75 equivalent | C(#N)[BH3-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | α,N-dimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine | CC(CC1(C=CCC=C1)C1=CC=CC=C1)NC | C16H21N
